US04289787
7.6 Grams of 1-methyl-4-(4-chlorophenyl)butylamine was reacted with 9.9 ml. of ninety percent formic acid and 9.5 ml. of thirty-seven percent aqueous formaldehyde to provide 7.05 g. of N,N-dimethyl-1-methyl-4-(4-chlorophenyl)butylamine. The free amine was reacted with hydrogen chloride to form N,N-dimethyl-1-methyl-4-(4-chlorophenyl)butylaminium chloride. M.P. 109°-111° C.

reactant | N,N-dimethyl-1-methyl-4-(4-chlorophenyl)butylamine | CN(C)C(CCCC1=CC=C(C=C1)Cl)C | C13H20ClN
reactant | hydrogen chloride | Cl | ClH
product | N,N-dimethyl-1-methyl-4-(4-chlorophenyl)butylaminium chloride | [Cl-].C[NH+](C)C(CCCC1=CC=C(C=C1)Cl)C | InChI=1S/C13H20ClN.ClH/c1-11(15(2)3)5-4-6-12-7-9-13(14)10-8-12;/h7-11H,4-6H2,1-3H3;1H
